US04126624
Isomaltol (6.3 g, 0.05 moles) in 60 ml of CH2Cl2 was added dropwise over 10 minutes to a solution of PCl5 (10.4 g, 0.05 moles) in 125 ml of CH2Cl2 at 4° C. After stirring at 4°-5° C. for 1 hour, the reaction was allowed to come to room temperature, poured into 350 ml of water and the CH2Cl2 layer separated. The aqueous layer was then extracted with CH2Cl2, the CH2Cl2 layers combined and then concentrated to yield a dark oil, 7.0 g. Pure 2-acetyl-3-chloro-furan was obtained by chromatography from silica gel, NMR (CDCl3, δ) 7.5 (1H, d, J = 2Hz), 6.56 (1H, d, J = 2Hz), 2.53 (3H, s).

reactant | Isomaltol | 0.05 moles, 6.3 g | CC(=O)C1=C(C=CO1)O | C6H6O3
reactant | PCl5 | 0.05 moles, 10.4 g | P(Cl)(Cl)(Cl)(Cl)Cl | Cl5P
reactant | water | 350 ml | O | H2O
solvent | CH2Cl2 | 60 ml | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 125 ml | C(Cl)Cl | CH2Cl2
product | 2-acetyl-3-chloro-furan | C(C)(=O)C=1OC=CC1Cl | C6H5ClO2
